US07776864B2
Step 4: 4-(2-methyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde
To a mixture of 6.90 g 5-chloro-2-methyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine and 4.65 g 4-formylphenylboronic acid in 100 ml 1,2-dimethoxyethane are added 55 ml of a 10% w/w sodium carbonate solution and 1.03 g dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II). The resulting mixture is heated to 90° C. under an inert gas atmosphere for 18 h. The work up is performed by diluting the reaction mixture with water and dichloromethane, separating the phases and extraction of the aqueous phase with dichloromethane. The combined organic layers are dried over sodium sulphate and the solvent is evaporated. The residue is purified by chromatography on silica gel (dichloromethane/methanol) to yield the desired product.

reactant | 5-chloro-2-methyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine | 6.90 g | ClC1=NC=2N(C=C1C1=CC=CC=C1)N=C(N2)C | C12H9ClN4
reactant | 4-formylphenylboronic acid | 4.65 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 1.03 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(2-methyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | CC1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=O)C=C2)=N1 | C19H14N4O
